US07064219B2
After 16.23 g (having a purity of 85% by weight) of potassium hydroxide was dissolved in 45 ml of water, 5.0 g (30.5 mmol) of phenylpyruvic acid and 12.1 g (91.4 mmol) of oxalacetic acid were added to the resulting solution, for reaction at ambient temperature for 24 hours (about pH 13 at the start of the reaction). To the reaction solution was added 8.5 g (121.8 mmol) of hydroxylamine hydrochloride salt, for reaction at ambient temperature for 72 hours. The reaction solution was adjusted to pH 2.6, using 6N hydrochloric acid, and was then extracted in ethyl acetate. The organic layer was rinsed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated to dryness. The resulting residue was recrystallized in 20 ml of ethyl acetate and 80 ml of toluene, to obtain 4.0 g (15.1 mmol) of 4-benzyl-4-hydroxy-2-hydroxyiminoglutaric acid.

reactant | potassium hydroxide | [OH-].[K+]
reactant | phenylpyruvic acid | 30.5 mmol, 5.0 g | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | oxalacetic acid | 91.4 mmol, 12.1 g | C(CC(=O)C(=O)O)(=O)O | C4H4O5
reactant | hydroxylamine hydrochloride salt | 121.8 mmol, 8.5 g | Cl.NO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 45 ml | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-4-hydroxy-2-hydroxyiminoglutaric acid | 15.1 mmol, 4.0 g | C(C1=CC=CC=C1)C(CC(C(=O)O)=NO)(C(=O)O)O | C12H13NO6
